US05268387
A mixture of 2-undecanone (10 g, 58.7 mmol), glyoxylic acid monohydrate (5.15 g, 56 mmol) and 85% phosphoric acid (10 ml) was warmed at 80° for 18 hours. On cooling to room temperature, the mixture was diluted with ethyl ether/dichloromethane (50 ml each) and washed thoroughly with brine. Evaporation of the dried (magnesium sulphate) organic phase gave a yellow oil which on crystallization from ethyl ether/petroleum ether gave 4-ketotridec-2-enoic acid as colorless prisms.

reactant | 2-undecanone | 58.7 mmol, 10 g | CC(CCCCCCCCC)=O | C11H22O
reactant | glyoxylic acid monohydrate | 56 mmol, 5.15 g | O.C(C=O)(=O)O
reactant | phosphoric acid | 10 ml | P(O)(O)(O)=O | H3O4P
solvent | ethyl ether dichloromethane | 50 ml | C(C)OCC.ClCCl
product | 4-ketotridec-2-enoic acid | O=C(C=CC(=O)O)CCCCCCCCC | C13H22O3
